US03982019
Methylamine (3.1 grams; 0.1 mol) is placed into a glass ampule of 30 ml capacity and is cooled in an acetone-dry ice bath. Trifluoromethyl isocyanate (11.1 grams; 0.1 mol) is added to the ampule and the ampule is sealed. The reaction mixture is slowly warmed up to room temperature and is allowed to stand at this temperature for a period of about 1 hour. At the end of this time the ampule is opened and the contents removed and distilled under reduced pressure to yield N-methyl-N'-trifluoromethyl urea.

reactant | Methylamine | 0.1 mol, 3.1 grams | CN | CH5N
reactant | Trifluoromethyl isocyanate | 0.1 mol, 11.1 grams | FC(F)(F)N=C=O | C2F3NO
product | N-methyl-N'-trifluoromethyl urea | CNC(=O)NC(F)(F)F | C3H5F3N2O
